US09278929B1
4-(Phenylamino)-1-(phenylmethyl)-4-piperidinenitrile, 1
1-Phenylmethyl-4-piperidinone (20.00 g, 0.106 mol), KCN (9.60 g, 0.147 mol), and aniline (13.60 g, 0.146 mol) in 180 mL isopropanol were cooled in an ice bath. Acetic acid (20 mL) was added dropwise and the addition funnel was rinsed with 20 mL isopropanol. The solution was heated at reflux for 4 h. The mixture was allowed to cool to room temperature and poured over an ice (120 g)/concentrated ammonium hydroxide (80 mL) mixture. The aqueous solution was extracted three times with chloroform. The organic layer was washed with brine. The organic solution was dried with MgSO4, filtered, and the volatiles were evaporated. The residue was recrystallized from isopropanol to provide 24.04 g of a white solid in a 78% yield. mp 145-147° C.; 1H NMR (CDCl3) δ 7.35-7.23 (m, 6H), 6.93-6.90 (m, 4H), 3.65, (br s, 1H), 3.56 (br s, 2H), 2.81 (br d, 2H, J=11.91 Hz), 2.46 (t, 2H, J=10.30 Hz), 2.33 (d, 2H, J=13.28 Hz), 1.93 (t, 2H, J=10.30 Hz); 13C NMR (CDCl3) δ 143.4, 138.1, 129.4, 129.1, 128.5, 127.4, 62.7, 53.2, 49.4, 36.2.

reactant | 1-Phenylmethyl-4-piperidinone | 0.106 mol, 20.00 g | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
reactant | KCN | 0.147 mol, 9.60 g | [C-]#N.[K+]
reactant | aniline | 0.146 mol, 13.60 g | NC1=CC=CC=C1 | C6H7N
reactant | Acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | isopropanol | 180 mL | C(C)(C)O | C3H8O
product | 4-(Phenylamino)-1-(phenylmethyl)-4-piperidinenitrile | 24.04 g, 78% yield | C1(=CC=CC=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C#N | C19H21N3
